US06528504B2
(R)-2-Hydroxymethyl-1-(3,4-methylenedioxyphenethyl)piperidine (370 mg) was dissolved in 10 ml of dichloromethane. Triethylamine (184 mg, 1.82 mmol) and methanesulfonyl chloride (208 mg, 1.82 mmol) were added to the obtained solution under stirring under cooling on ice. They were stirred under cooling on ice for 1 hour and then at room temperature for 14 hours. The reaction liquid was distributed in dichloromethane and saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain (R)-3-chloro-1-(3,4-methylenedioxyphenethyl) homopiperidine in the form of a light yellow oil (375 mg, 95%).

reactant | (R)-2-Hydroxymethyl-1-(3,4-methylenedioxyphenethyl)piperidine | 370 mg | OC[C@@H]1N(CCCC1)CCC1=CC2=C(C=C1)OCO2 | C15H21NO3
reactant | Triethylamine | 1.82 mmol, 184 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.82 mmol, 208 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-3-chloro-1-(3,4-methylenedioxyphenethyl) homopiperidine | Cl[C@H]1CN(CCCC1)CCC1=CC2=C(C=C1)OCO2 | C15H20ClNO2
